US05750050
Step 7.2 Preparation of 1-Bromo-4-decyloxy-2-ethyl-6-methylbenzene
A solution of bromine (5.44 g, 0.034 mol) in chloroform (50 ml) was added dropwise to a stirred, refluxing solution of 1-decyloxy-3-ethyl-5-methylbenzene (9.4 g, 0.034 mol) in chloroform (200 ml). The reaction mixture was then allowed to cool, washed with water and dried (MgSO4). The solvent was removed and the residue purified by gravity column chromatography (silica gel/dichloromethane) to yield a pale orange oil.

reactant | bromine | 0.034 mol, 5.44 g | BrBr | Br2
reactant | 1-decyloxy-3-ethyl-5-methylbenzene | 0.034 mol, 9.4 g | C(CCCCCCCCC)OC1=CC(=CC(=C1)C)CC | C19H32O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Bromo-4-decyloxy-2-ethyl-6-methylbenzene | BrC1=C(C=C(C=C1C)OCCCCCCCCCC)CC | C19H31BrO
